US07338959B2
A. Methyl-(1-methyl-5-nitro-1H-benzimidazol-2-yl)-amine
N1-methyl-4-nitro-benzene-1,2-diamine (2.0 g, 12.0 mmol) and methyl isothiocyanate (0.90 ml, 13.2 mmol) were coupled using the procedure of example one part B to give the title compound as a yellow solid (1.32 g, 53%). 1H NMR (300 MHz, d6-DMSO) δ 7.98 (d, J=2.1 Hz, 1H), 7.90 (dd, J=8.7 and 2.4 Hz, 1H), 7.32 (d, J=8.7 Hz, 1H), 7.15 (m, 1H), 3.55 (d, 3H), 2.95 (d, J=4.5 Hz, 3H).

reactant | N1-methyl-4-nitro-benzene-1,2-diamine | 12.0 mmol, 2.0 g | CNC=1C(=CC(=CC1)[N+](=O)[O-])N | C7H9N3O2
reactant | methyl isothiocyanate | 13.2 mmol, 0.90 ml | CN=C=S | C2H3NS
product | Methyl-(1-methyl-5-nitro-1H-benzimidazol-2-yl)-amine | 1.32 g, 53% | CNC1=NC2=C(N1C)C=CC(=C2)[N+](=O)[O-] | C9H10N4O2
